US09278085B2
Crude (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enenitrile in MeOH (3 mL) was cooled to 0° C. and treated with NaBH4 (64.3 mg, 1.74 mmol), which gave immediate effervescence. After 12 h, H2O (10 mL) was added (caution: copious gas evolution), MTBE (10 mL) was added, separated and the aqueous phase extracted with MTBE (3×10 mL). The combined organics were washed with H2O (10 mL), brine (10 mL), dried over Na2SO4 and concentrated to give (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-en-1-ol as a pale yellow oil.

reactant | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enenitrile | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCC#N)\C | C19H27NO2
reactant | NaBH4 | 1.74 mmol, 64.3 mg | [BH4-].[Na+]
reactant | H2O | 10 mL | O | H2O
reactant | MTBE | 10 mL | CC(C)(C)OC | C5H12O
solvent | MeOH | 3 mL | CO | CH4O
product | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-en-1-ol | COC1=C(C(=C(C(=C1C)C)OC)C)C/C=C(/CCCCO)\C | C19H30O3
